US08012499B2
Preparation of 3-bromo-N-[4-chloro-2-methyl-6-[(1E)-2-(methylamino)-1-(methylimino)-2-oxoethyl]phenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxamide
A suspension of 1-[[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]carbonyl]-5-chloro-7-methyl-1H-indole-2,3-dione (i.e. the crude product of Example 5) (4.80 g, 10 mmol) in acetonitrile (15 mL) was cooled to −10° C., and liquefied methylamine (0.35 g, 11 mmol) was added. The mixture was stirred for 1 hour at −10° C., then warmed to 0° C., and three more portions of liquefied methylamine (each 0.35 g, 11 mmol) were added periodically. Finally the reaction mass was filtered, and the solids were washed with acetonitrile (3×2 mL) and dried under nitrogen to afford the title product, a compound of the present invention, as off-white solids, 1.09 g. Almost immediately, more solids began to precipitate from the filtrate. These were filtered, washed with acetonitrile (3×2 mL), and dried under nitrogen to afford a second crop of the title product as light yellow crystals, 2.91 g, m.p. 230-234° C. (decomp.). The total isolated yield from both crops was 4.00 g (76.3%).

reactant | 1-[[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]carbonyl]-5-chloro-7-methyl-1H-indole-2,3-dione | BrC1=NN(C(=C1)C(=O)N1C(C(C2=CC(=CC(=C12)C)Cl)=O)=O)C1=NC=CC=C1Cl | C18H9BrCl2N4O3
reactant | methylamine | 11 mmol, 0.35 g | CN | CH5N
reactant | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-bromo-N-[4-chloro-2-methyl-6-[(1E)-2-(methylamino)-1-(methylimino)-2-oxoethyl]phenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxamide | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1\C(\C(=O)NC)=N/C)Cl)C)C1=NC=CC=C1Cl | C20H17BrCl2N6O2
